US07714010B2
a) 2-Bromomethyl-5-fluoro-pyridine
To a solution of 5-fluoro-2-methyl-pyridine (0.75 g) (J. Med. Chem. 1989, 32, 1970) in CCl4 (25 ml) is added N-bromosuccinimide (0.96 g; 5.4 mmol) and benzoyl peroxide (200 mg; 0.8 mmol). The mixture is heated at reflux for 3 h, cooled to RT and stirred for additional 12 h. The suspension is filtered through celite and the filtrate is washed with Na2SO4, dried over MgSO4 and evaporated. The crude material (0.22 g) containing approximately 50% of the dibrominated species is used without further purification.

reactant | 5-fluoro-2-methyl-pyridine | 0.75 g | FC=1C=CC(=NC1)C | C6H6FN
reactant | N-bromosuccinimide | 5.4 mmol, 0.96 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.8 mmol, 200 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-5-fluoro-pyridine | BrCC1=NC=C(C=C1)F | C6H5BrFN
